US07241791B2
Step 1: 7-chloro-1-isopropyl-3-(4-methoxyphenyl)-1H-indazole
Prepared according to Method D step B from 7-chloro-3-(4-methoxyphenyl)-1H-indazole (0.129 g, 0.5 mmol), sodium hydride (60% in oil, 0.024 g, 0.6 mmol) and 2-iodopropane (0.10 mL, 1.0 mmol) to give the title compound (0.043 g) as a white solid.

reactant | 7-chloro-3-(4-methoxyphenyl)-1H-indazole | 0.5 mmol, 0.129 g | ClC=1C=CC=C2C(=NNC12)C1=CC=C(C=C1)OC | C14H11ClN2O
reactant | sodium hydride | 0.6 mmol, 0.024 g | [H-].[Na+]
reactant | 2-iodopropane | 1.0 mmol, 0.10 mL | IC(C)C | C3H7I
product | 7-chloro-1-isopropyl-3-(4-methoxyphenyl)-1H-indazole | 0.043 g | ClC=1C=CC=C2C(=NN(C12)C(C)C)C1=CC=C(C=C1)OC | C17H17ClN2O
